US07196090B2
A flask was charged with 0.312 g (0.79 mmol) of 1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one, 15 mL dioxane, and 0.273 g (2.37 mmol) of trans-4-Aminocyclohexanol, and the mixture was heated 48 hours at 95° C. The dioxane was removed under reduced pressure, and the crude residue was purified directly via column chromatography (20:1 dichloromethane/methanol). This procedure gave 0.215 g (66%) of 1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one as a white solid: mp=198° C.–204° C.; MS (APCI) m+1/z 462.

reactant | 1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-methanesulfinyl-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.79 mmol, 0.312 g | C(C)N1C(N(CC=2C1=NC(=NC2)S(=O)C)C2=C(C(=CC(=C2)OC)OC)F)=O | C17H19FN4O4S
reactant | trans-4-Aminocyclohexanol | 2.37 mmol, 0.273 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | 1-Ethyl-3-(2-fluoro-3,5-dimethoxy-phenyl)-7-(4-hydroxy-cyclohexylamino)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.215 g, 66% | C(C)N1C(N(CC=2C1=NC(=NC2)NC2CCC(CC2)O)C2=C(C(=CC(=C2)OC)OC)F)=O | C22H28FN5O4
